US09034880B2
Preparation of the title compound was carried out according to General Method 8. 4-Chlorophenylhydrazine hydrochloride (2 g, 11 mmol), 4-(2-bromoethyl)morpholine (2.1 g, 11 mmol), triethyl amine (4.6 ml, 33 mmol) and N-methyl-4-piperidone hydrochloride (1.6 g, 11 mmol) were combined in ethanol (20 ml) to obtain 180 mg of -chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-morpholinoethyl)-1H-pyrido[4,3-b]indole after purification on silica gel (230-400 mesh) chromatography eluting with acetone-hexane gradient. The free base was converted into its dioxalate salt by treatment of oxalic acid (2 equiv) in anhydrous THF.

reactant | 4-Chlorophenylhydrazine hydrochloride | 11 mmol, 2 g | Cl.ClC1=CC=C(C=C1)NN
reactant | 4-(2-bromoethyl)morpholine | 11 mmol, 2.1 g | BrCCN1CCOCC1 | C6H12BrNO
reactant | triethyl amine | 33 mmol, 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl-4-piperidone hydrochloride | 11 mmol, 1.6 g | Cl.CN1CCC(CC1)=O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-morpholinoethyl)-1H-pyrido[4,3-b]indole | ClC1N(CCC=2N(C=3C=CC=CC3C21)CCN2CCOCC2)C | C18H24ClN3O
